US04042694
5,5-Dimethyl-10-[3-(piperidino)propionyloxy]-8-(3-methyl-2-octyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano [3,4-d]pyridine dihydrochloride (SP-216)
A mixture of 2.0 g. (5.05 mmole) of 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine, 0.75 ml. (5.30 mmole) of triethylamine, 0.42 ml. (5.30 mmole) of acryloyl chloride and 25 ml. of methylene chloride was stirred at room temperature for 18 hours. The reaction mixture was evaporated and 50 ml. of diethyl ether was added to the brown semi-solid residue which was obtained. The insoluble solid was removed by filtration, and the mother liquor was removed on a rotary evaporator. The residue which remained was subsequently dissolved in 50 ml. of methylene chloride. After washing twice with 1N hydrochloric acid, twice with 5% sodium bicarbonate solution, twice with water, and drying over sodium sulfate, the methylene chloride was evaporated to give 1.86 g. (82%) of 10-acryloyloxy-5,5-dimethyl-8-(3-methyl-2-octyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[ 3,4-d]pyridine as a brown gum. The material showed a single spot by thin layer chromatography (5% MeOH/CHCl3), and the infrared and nuclear magnetic resonance spectra were consistent with the desired product.

reactant | 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine | 5.05 mmole | CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)O)C2=C1CCN(C2)CC#C)C | C26H37NO2
reactant | triethylamine | 5.30 mmole | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 5.30 mmole | C(C=C)(=O)Cl | C3H3ClO
reactant | 10-acryloyloxy-5,5-dimethyl-8-(3-methyl-2-octyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[ 3,4-d]pyridine | C(C=C)(=O)OC1=CC(=CC2=C1C1=C(CCN(C1)CC#C)C(O2)(C)C)C(C)C(CCCCC)C | C29H39NO3
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5,5-Dimethyl-10-[3-(piperidino)propionyloxy]-8-(3-methyl-2-octyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano [3,4-d]pyridine dihydrochloride | Cl.Cl.CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)OC(CCN2CCCCC2)=O)C2=C1CCN(C2)CC#C)C | InChI=1S/C34H50N2O3.2ClH/c1-7-9-11-14-25(3)26(4)27-22-30(38-32(37)16-21-35-18-12-10-13-19-35)33-28-24-36(17-8-2)20-15-29(28)34(5,6)39-31(33)23-27;;/h2,22-23,25-26H,7,9-21,24H2,1,3-6H3;2*1H
